US07541374B2
The mixture of 1.68 g of 6,6-dimethyl-2,4,5,6-tetrahydrocyclopenta [c] pyrazole, 0.41 g of paraformaldehyde and 0.2 g of triethylamine was stirred at 130° C. for 5 hours. After the reaction mixture was cooled to room temperature, acetone was added to the reaction mixture. The mixture was filtered. The filterate was concentrated under reduced pressure. Hexane was added to the residue, and then crystalline was formed. The crystalline was collected to obtain 0.31 g of {6,6-dimethyl-5,6-dihydrocyclopenta [c] pyrazole-2 (4H)-yl} methanol.

reactant | 6,6-dimethyl-2,4,5,6-tetrahydrocyclopenta [c] pyrazole | 1.68 g | CC1(CCC=2C1=NNC2)C | C8H12N2
reactant | paraformaldehyde | 0.41 g | C=O | CH2O
reactant | triethylamine | 0.2 g | C(C)N(CC)CC | C6H15N
solvent | acetone | CC(=O)C | C3H6O
product | {6,6-dimethyl-5,6-dihydrocyclopenta [c] pyrazole-2 (4H)-yl} methanol | 0.31 g | CC1(CCC=2C1=NN(C2)CO)C | C9H14N2O
